US07700641B2
B. Synthesis of 4-bromo-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1-(pyridin-2-ylmethyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2B, and making non-critical variations to replace 1-(2-cyclopropylethyl)-1H-indole-2,3-dione with 4-bromo-1-(pyridin-2-ylmethyl)-1H-indole-2,3-dione, and 1,3-benzodioxol-5-ol with 2,3-dihydrobenzofuran-6-ol, the title compound was obtained (91%) as a colorless solid: mp>225° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.29 (s, 1H), 8.54 (d, 1H), 7.70 (dt, 1H), 7.61 (br, 1H), 7.32-7.26 (m, 2H), 7.07 (d, 1H), 7.00 (d, 1H), 6.72 (d, 1H), 6.60 (br, 1H), 6.02 (s, 1H), 4.91 (ABq, 2H), 4.47 (t, 2H), 3.06 (d, 2H); 13C NMR (75 MHz, DMSO-d6) δ 176.9, 160.4, 156.3, 153.8, 149.6, 146.1, 137.5, 130.9, 130.8, 126.5, 125.8, 123.1, 121.5, 118.8, 117.3, 116.4, 108.3, 96.7, 76.6, 71.9, 45.7, 29.1; MS (ES+) m/z 455.4 (M+1), 437.4 (M−17).

reactant | 1-(2-cyclopropylethyl)-1H-indole-2,3-dione | C1(CC1)CCN1C(C(C2=CC=CC=C12)=O)=O | C13H13NO2
reactant | 4-bromo-1-(pyridin-2-ylmethyl)-1H-indole-2,3-dione | BrC1=C2C(C(N(C2=CC=C1)CC1=NC=CC=C1)=O)=O | C14H9BrN2O2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 2,3-dihydrobenzofuran-6-ol | O1CCC2=C1C=C(C=C2)O | C8H8O2
product | 4-bromo-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1-(pyridin-2-ylmethyl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CC1=NC=CC=C1)=O)(C=1C(=CC2=C(CCO2)C1)O)O | C22H17BrN2O4
